US07491735B2
To a solution of 4-[hydroxy-(4-trifluoromethyl-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (990 mg, 2.75 mmol), acetone cyanohydrin (913 mg, 10.73 mmol) and Ph3P (2.5 g, 9.63 mmol) in THF (25 mL) was added DIAD (2.2 g, 10.94 mmol) in THF (10 mL) over 5 hours at 0° C. and the resulting mixture was stirred for another 72 hours at room temperature. Standard work-up and purification afforded 4-[cyano-(4-trifluoromethyl-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (539 mg, 53%) as a white foam.

reactant | 4-[hydroxy-(4-trifluoromethyl-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.75 mmol, 990 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)C(F)(F)F)O | C18H24F3NO3
reactant | acetone cyanohydrin | 10.73 mmol, 913 mg | CC(C#N)(O)C | C4H7NO
reactant | Ph3P | 9.63 mmol, 2.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 10.94 mmol, 2.2 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[cyano-(4-trifluoromethyl-phenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 539 mg, 53% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)C(F)(F)F)C#N | C19H23F3N2O2
